US04845094
4-acetamido-5-hydroxy-2-phenyl-2,3,4,5-tetrahydro-1-benzoxepin (R4a, R4b, R4c)
797 mg (2.70 m moles) of 4-acetamido-2-phenyl-2,3,4,5-tetrahydro-1-benzoxepin (compound R3a of Reference Example) was dissolved in 50% methanol, 411 mg (10.8 m moles) of sodium borohydride was added to the solution at -50° C. to -20° C., and the whole was stirred for 5 hours. The reaction mixture was concentrated, and ice water was added to the concentrate. The mixture was extracted with methylene chloride, and the extract was washed with water and dried with anhydrous magnesium sulfate. After filtrating off the magnesium sulfate, the filtrate was concentrated to obtain a residue, which was then applied to a silica gel column, and eluted with a mixture of methylene chloride/methanol (98:2) to obtain stereoisomers R4a (22.5 mg; yield 28.0%) and R4b (485 mg; yield 60.4%) of the desired compound.

reactant | 4-acetamido-2-phenyl-2,3,4,5-tetrahydro-1-benzoxepin | 797 mg | C(C)(=O)NC1CC(OC2=C(C1)C=CC=C2)C2=CC=CC=C2 | C18H19NO2
reactant | sodium borohydride | 411 mg | [BH4-].[Na+]
reactant | methanol | CO | CH4O
product | 4-acetamido-5-hydroxy-2-phenyl-2,3,4,5-tetrahydro-1-benzoxepin | yield 28.0% | C(C)(=O)NC1CC(OC2=C(C1O)C=CC=C2)C2=CC=CC=C2 | C18H19NO3
